US08957203B2
A solution of 7-fluoro-3-(4-isopropoxyphenyl)-6-methoxyisoquinolin-1-ol (1.8 g, 5.50 mmol) in POCl3 (7.69 ml, 82 mmol) was refluxed for 4 h. The reaction mixture was concentrated. The residue was dissolved in DCM and the pH was adjusted to 7 with 4N NaOH. The organic phase was collected and dried over sodium sulfate, filtered, then concentrated under vacuum. The crude material was purified by silica gel chromatography using 50% DCM in hexanes. The product fractions were collected and the solvent removed under vacuum to give 1-chloro-7-fluoro-3-(4-isopropoxyphenyl)-6-methoxyisoquinoline (1.8 g, 95% yield). MS: MS m/z 346.1 (M++1).

reactant | 7-fluoro-3-(4-isopropoxyphenyl)-6-methoxyisoquinolin-1-ol | 5.50 mmol, 1.8 g | FC1=C(C=C2C=C(N=C(C2=C1)O)C1=CC=C(C=C1)OC(C)C)OC | C19H18FNO3
reactant | POCl3 | 82 mmol, 7.69 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-7-fluoro-3-(4-isopropoxyphenyl)-6-methoxyisoquinoline | 1.8 g, 95% yield | ClC1=NC(=CC2=CC(=C(C=C12)F)OC)C1=CC=C(C=C1)OC(C)C | C19H17ClFNO2
